US08876274B2
Examples of commercially available radical photopolymerization initiator include IRGACURE 651 (2,2-dimethoxy-1,2-diphenyl ethane-1-on), IRGACURE 184 (1-hydroxycyclohexyl-phenyl-ketone), DAROCUR 1173 (2-hydroxy-2-methyl-1-phenyl-propane-1-on), IRGACURE 2959 (1-[4-(2-hydroxyethoxy)-phenyl]-2-hydroxy-2-methyl-1-propane-1-on), IRGACURE 127 (2-hydroxy-1-{4-[4-(2-hydroxy-2-methyl-propnyl)-benzyl]phenyl}-2-methyl-propane-1-on, IRGACURE 907 (2-methyl-1-(4-methyl thiophenyl)-2-morpholinopropane-1-on), IRGACURE 369 (2-benzyl-2-dimethylamino-1-(4-morpholinophenyl)-butanone-1), IRGACURE 379 (2-(dimethylamino)-2-[(4-methylphenyl)methyl]-1-[4-(4-morpholinyl)phenyl]-1-butanone), DAROCUR TPO (2,4,6-trimethylbenzoyl-diphenyl-phosphine oxide), IRGACURE 819 (bis(2,4,6-trimethylbenzoyl)-phenyl phosphine oxide), IRGACURE 784 (bis(eta-5-2,4-cyclopentadiene-1-yl)-bis(2,6-difluoro-3-(1H-pyrrole-1-yl)-phenyl)titanium), IRGACURE OXE 01 (1.2-octanedione, 1-[4-(phenylthio)-, 2-(o-benzoyloxime)]), IRGACURE OXE 02 (ethanone, 1-[9-ethyl-6-(2-methylbenzoyl)-9H-carbazole-3-yl]-, 1-(o-acetyloxime)), and IRGACURE 754 (mixture of oxyphenyl acetic acid, 2-[2-oxo-2-phenylacetoxyethoxy]ethyl ester and oxyphenyl acetic acid, 2-(2-hydroxyethoxy)ethyl ester)(all produced by BASF); Speedcure TPO (produced by Lambson), KAYACURE DETX-S (2,4-diethylthioxantone) (produced by Nippon Kayaku Co., Ltd.); Lucirin TPO, LR8893, LR8970 (produced by BASF); Ubecryl P36 (produced by UCB), and the like.

reactant | IRGACURE 651 | COC(C1=CC=CC=C1)(C(=O)C2=CC=CC=C2)OC | C16H16O3
reactant | IRGACURE 184 | C1CCC(CC1)(C(=O)C2=CC=CC=C2)O | C13H16O2
reactant | 2-hydroxy-2-methyl-1-phenyl-propane-1-on | OC(C(=O)C1=CC=CC=C1)(C)C | C10H12O2
reactant | IRGACURE 2959 | CC(C)(C(=O)C1=CC=C(C=C1)OCCO)O | C12H16O4
reactant | IRGACURE 907 | CC(C)(C(=O)C1=CC=C(C=C1)SC)N2CCOCC2 | C15H21NO2S
reactant | IRGACURE 369 | CCC(CC1=CC=CC=C1)(C(=O)C2=CC=C(C=C2)N3CCOCC3)N(C)C | C23H30N2O2
reactant | 2-(dimethylamino)-2-[(4-methylphenyl)methyl]-1-[4-(4-morpholinyl)phenyl]-1-butanone | CN(C(C(=O)C1=CC=C(C=C1)N1CCOCC1)(CC)CC1=CC=C(C=C1)C)C | C24H32N2O2
reactant | TPO | CC1=C(C(=O)P(C2=CC=CC=C2)(C2=CC=CC=C2)=O)C(=CC(=C1)C)C | C22H21O2P
reactant | bis(2,4,6-trimethylbenzoyl)-phenyl phosphine oxide | CC1=C(C(=O)P(C2=CC=CC=C2)(C(C2=C(C=C(C=C2C)C)C)=O)=O)C(=CC(=C1)C)C | C26H27O3P
reactant | 1.2-octanedione | C(C(CCCCCC)=O)=O | C8H14O2
reactant | ethanone | C(C)=O | C2H4O
reactant | IRGACURE 754 | C1=CC=C(C=C1)C(=O)C(=O)OCCOCCOC(=O)C(=O)C2=CC=CC=C2 | C20H18O7
catalyst | IRGACURE 784 | C1=C[CH]C=C1.C1=C[CH]C=C1.C1=CN(C=C1)[C]2C=CC(=C=C2F)F.C1=CN(C=C1)[C]2C=CC(=C=C2F)F.[Ti]
product | Lucirin TPO | COC1=CC(=C(C(=C1)OC)C(=O)P(=O)(C2=CC=CC=C2)C3=CC=CC=C3)OC | C22H21O5P
